US06770667B1
A suspension of 3-nitrobenzyl cyanide (1.62 g), glyoxylic acid monohydrate (1.38 g) and potassium carbonate (3.59 g) in methanol (20 ml) was stirred for 5 hours. The precipitate was collected by filtration, washed with dichloromethane and dried. The precipitate was suspended in water and stirred for an hour. The insoluble material was collected by filtration and dried to give 3-cyano-3-(3-nitro-phenyl)-acrylic acid potassium salt (2.18 g, 85.2%).

reactant | 3-nitrobenzyl cyanide | 1.62 g | [N+](=O)([O-])C=1C=C(CC#N)C=CC1 | C8H6N2O2
reactant | glyoxylic acid monohydrate | 1.38 g | O.C(C=O)(=O)O
reactant | potassium carbonate | 3.59 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 ml | CO | CH4O
product | 3-cyano-3-(3-nitro-phenyl)-acrylic acid potassium salt | 2.18 g, 85.2% | [K+].C(#N)C(=CC(=O)[O-])C1=CC(=CC=C1)[N+](=O)[O-] | InChI=1S/C10H6N2O4.K/c11-6-8(5-10(13)14)7-2-1-3-9(4-7)12(15)16;/h1-5H,(H,13,14);/q;+1/p-1
